US06960586B2
Production of 2-cyclopropyl-7-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-1,2-dihydro-3H-benzo[e]isoindol-3-one
By a ring closure reaction, a detritylation reaction and purification in the same manner as in Example 1 using methyl 1-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate (1.32 g) and cyclopropylamine (3.0 ml), the title compound (0.58 g) was obtained as a colorless amorphous solid.

reactant | methyl 1-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate | 1.32 g | BrCC1=C(C=CC2=CC(=CC=C12)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(=O)OC | C39H35BrN2O3
reactant | cyclopropylamine | 3.0 ml | C1(CC1)N | C3H7N
product | 2-cyclopropyl-7-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-1,2-dihydro-3H-benzo[e]isoindol-3-one | 0.58 g | C1(CC1)N1C(C=2C=CC3=C(C2C1)C=CC(=C3)C(C(C)C)(C=3N=CNC3)O)=O | C22H23N3O2
